US07423030B2
29.1. 2-(4-fluorobenzoyl)-5-methoxybenzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-methoxybenzoic acid pretreated with n-butyllithium with 4-fluoro-N-methoxy-N-methylbenzamide. It is used in crude form in the following reaction.

reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-fluoro-N-methoxy-N-methylbenzamide | FC1=CC=C(C(=O)N(C)OC)C=C1 | C9H10FNO2
product | 2-(4-fluorobenzoyl)-5-methoxybenzoic acid | FC1=CC=C(C(=O)C2=C(C(=O)O)C=C(C=C2)OC)C=C1 | C15H11FO4
